US08314087B2
2-(2-((2-Chloropyridin-4-yl)(methyl)amino)ethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one
A suspension of 2-(2-(methylamino)ethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one (200 mg, 802 μmol), 2-chloro-4-fluoropyridine (116 mg, 882 μmol), and potassium carbonate (222 mg, 1604 μmol) in DMF (1 mL) was heated to 75° C. for 90 min. The reaction mixture was partitioned between CH2Cl2 (50 mL) and 5% NaHCO3 (20 mL). The organic layer was dried over MgSO4 and concentrated to a solid from toluene under reduced pressure. The solid was triturated with toluene and dried under reduced pressure to give a white solid. MS (ESI pos. ion) m/z (MH+): 361. Calc'd exact mass for C17H17ClN4OS: 360. 1H NMR (400 MHz, Chloroform-d) δ ppm 2.28 (s, 3 H) 3.02 (s, 3 H) 3.83 (t, J=6.27 Hz, 2 H) 4.40 (t, J=6.27 Hz, 2 H) 6.40-6.52 (m, 2 H) 6.85 (d, J=9.54 Hz, 1 H) 6.96 (s, 1 H) 7.13 (s, 1 H) 7.46 (d, J=9.54 Hz, 1 H) 7.86 (d, J=6.02 Hz, 1 H). 13C NMR (101 MHz, Chloroform-d) δ ppm 15.74, 37.62, 48.39, 49.09, 105.64, 105.90, 123.48, 128.03, 129.65, 129.74, 138.18, 138.63, 141.27, 149.19, 152.43, 155.53, 159.78.

reactant | 2-(2-(methylamino)ethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one | 802 μmol, 200 mg | CNCCN1N=C(C=CC1=O)C=1SC=C(C1)C | C12H15N3OS
reactant | 2-chloro-4-fluoropyridine | 882 μmol, 116 mg | ClC1=NC=CC(=C1)F | C5H3ClFN
reactant | potassium carbonate | 1604 μmol, 222 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(2-((2-Chloropyridin-4-yl)(methyl)amino)ethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one | ClC1=NC=CC(=C1)N(CCN1N=C(C=CC1=O)C=1SC=C(C1)C)C | C17H17ClN4OS
